US08236838B2
N-Benzyl-5-(3,5-dibromo-4-hydroxyphenyl)-N-methylisoxazole-3-carboxamide (1)
Trimethylaluminium (0.1 mL of a 2 N solution in hexane, 0.2 mmol) was added to a solution of N-methylbenzylamine (27 mg, 0.22 mmol) in dry chloroform (2 mL) under nitrogen and the resulting solution was stirred at room temperature for 20 minutes. Methyl 5-(3,5-dibromo-4-hydroxyphenyl)isoxazole-3-carboxylate (75 mg, 0.2 mmol) was added and the reaction mixture was stirred at 50° C. for 48 hours. Water (1 mL) and chloroform (2 mL) were added to the solution; the chloroform was separated and evaporated to dryness. The residue was dissolved in dimethylsulphoxide (1 mL) and purified by preparative HPLC to give the title compound (42.8 mg, 46%) as a colorless powder. 1H NMR δ (ppm) (DMSO-d6): 2.96 and 3.09 (3 H, two s), 4.76 (2 H, s), 7.28-7.46 (6 H, m), 8.14 and 8.16 (2 H, t, two s), 10.73 (1 H, s). LCMS (10 cm_apci_formic) Rt 3.79 min; m/z 463/465/467 [M−H]−.

reactant | Trimethylaluminium | C[Al](C)C
reactant | N-methylbenzylamine | 0.22 mmol, 27 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | Methyl 5-(3,5-dibromo-4-hydroxyphenyl)isoxazole-3-carboxylate | 0.2 mmol, 75 mg | BrC=1C=C(C=C(C1O)Br)C1=CC(=NO1)C(=O)OC | C11H7Br2NO4
reactant | Water | 1 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | N-Benzyl-5-(3,5-dibromo-4-hydroxyphenyl)-N-methylisoxazole-3-carboxamide | 42.8 mg, 46% | C(C1=CC=CC=C1)N(C(=O)C1=NOC(=C1)C1=CC(=C(C(=C1)Br)O)Br)C | C18H14Br2N2O3
